US05623073
STEP A: 2-(3-Hydroxypropylamino)benzimidazole
Heat at 145°-150° C. for two hours a mixture of 5 g (25 mmol) of 2-benzimidazolesulfonic acid and 5.7 ml (75 mmol) of 3-aminopropanol. Cool to 90° C. and add 15 ml of cold water, with vigorous stirring, until a precipitate is formed. Maintain at a temperature of approximately 4° C. for one night, filter the title compound precipitate, wash with cold water and dry.

reactant | 2-benzimidazolesulfonic acid | 25 mmol, 5 g | N1=C(NC2=C1C=CC=C2)S(=O)(=O)O | C7H6N2O3S
reactant | 3-aminopropanol | 75 mmol, 5.7 ml | NCCCO | C3H9NO
solvent | water | 15 ml | O | H2O
product | 2-(3-Hydroxypropylamino)benzimidazole | OCCCNC=1NC2=C(N1)C=CC=C2 | C10H13N3O
